US07153854B2
Ethyl 7-oxo-7-phenylheptanoate
To a solution of ethyl 7-chloro-7-oxoheptanoate (1.31 g) in dichloromethane (25 mL) was added a solution of 2-(trimethylsilyl)-1,3-thiazole (500 mg) in dichloromethane (5 mL) under nitrogen. After stirring for 3 hours, the reaction was quenched by adding saturated sodium bicarbonate (5 mL). The mixture was partitioned between ethyl acetate (30 mL) and saturated sodium bicarbonate (30 mL), and the organic layer was washed with brine, dried over magnesium sulfate, and evaporated to give a colorless oil. Flash silica gel column chromatography eluting with ethyl acetate-hexane=1-10 to 2-5 afforded ethyl 7-oxo-7-(1,3-thiazol-2-yl)heptanoate as a colorless oil (778 mg).

reactant | ethyl 7-chloro-7-oxoheptanoate | 1.31 g | ClC(CCCCCC(=O)OCC)=O | C9H15ClO3
reactant | 2-(trimethylsilyl)-1,3-thiazole | 500 mg | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Ethyl 7-oxo-7-phenylheptanoate | O=C(CCCCCC(=O)OCC)C1=CC=CC=C1 | C15H20O3
